US07741327B2
To a stirred mixture of 3-ethoxy-2-fluoro-phenol (6.00 g, 0.038 mol) and ethyl-2-butynoate (8.60 g, 0.077 mol) in tetrahydrofuran (50 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (5.80 g, 0.038 mol) slowly. After addition was complete the mixture was stirred at reflux for 7 h. Upon completion of the reaction the tetrahydrofuran was removed in vacuo and the residue was diluted in diethyl ether and washed first with 1N aqueous hydrochloric acid, then 10% aqueous sodium hydroxide solution, a saturated sodium chloride solution and dried over magnesium sulfate. The crude product, (E)-3-(3-ethoxy-2-fluoro-phenoxy)-but-2-enoic acid ethyl ester, was obtained as a brown oil (6.00 g, 58%) and used without further purification.

reactant | 3-ethoxy-2-fluoro-phenol | 0.038 mol, 6.00 g | C(C)OC=1C(=C(C=CC1)O)F | C8H9FO2
reactant | ethyl-2-butynoate | 0.077 mol, 8.60 g | C(C)OC(C#CC)=O | C6H8O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.038 mol, 5.80 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (E)-3-(3-ethoxy-2-fluoro-phenoxy)-but-2-enoic acid ethyl ester | C(C)OC(\C=C(/C)\OC1=C(C(=CC=C1)OCC)F)=O | C14H17FO4
